US08957215B2
A solution of 2-(6-aminopyridin-3-yl)-1,3-benzothiazol-6-ol (177 mg, 0.73 mmol), TBDMSCl (121 mg, 1.1 equiv) and imidazole (124 mg, 2.5 equiv) in DMF (2.0 ml) was stirred at ambient temperature for 2 h. The reaction mixture was then partitioned between water and ethyl acetate. The aqueous phase was extracted twice with ethyl acetate and the combined organics dried (MgSO4) and concentrated in vacuo. The crude product thus obtained was purified by silica gel chromatography, using a mixture of DCM and methanol (95:5) as eluent, to yield 200 mg of the title compound as a white solid. 1H NMR δ 8.56 (d, 1H) 7.96 (dd, 1H) 7.80 (d, 1H) 7.54 (d, 1H) 6.98 (dd, 1H) 6.67 (s, 2H) 6.56 (d, 1H) 0.97 (s, 9H) 0.22 (s, 6H); MS m/z (M+H) 358.

reactant | 2-(6-aminopyridin-3-yl)-1,3-benzothiazol-6-ol | 0.73 mmol, 177 mg | NC1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)O | C12H9N3OS
reactant | TBDMSCl | 121 mg, 1.1 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 124 mg, 2.5 equiv | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 5-(6-{[tert-Butyl(dimethyl)silyl]oxy}-1,3-benzothiazol-2-yl)pyridin-2-amin | 200 mg | [Si](C)(C)(C(C)(C)C)OC1=CC2=C(N=C(S2)C=2C=CC(=NC2)N)C=C1 | C18H23N3OSSi
